US07320994B2
5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazole-3-carbaldehyde
Dissolve [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]methanol in DMSO. Add sulfur trioxide pyridine complex (4 eq) and add TEA (10 eq). Stir overnight at RT. Pour into water and extract with CH2Cl2. Purify via silica gel chromatography using a gradient of 4:1 to 1:1 hexanes:EtOAc to give the title compound. MS (IS) 589.0 (M−1). Rf=0.43 (1:1 hexanes:EtOAc)

reactant | [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]methanol | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N(C(=NN2)CO)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H19ClF6N6O
reactant | water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazole-3-carbaldehyde | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N(C(=NN2)C=O)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H17ClF6N6O
